US08975254B2
(R)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-acetylthiazole-4-carboxylic acid (0.597 g, 3.07 mmol) and (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.8 g, 3.07 mmol). The product was triturated using diethyl ether, isopropanol and DCM, respectively. Yield 24.22%. 1H-NMR (400 MHz; DMSO-d6): δ 1.19 (d, 3H), 2.30 (s, 3H), 4.37 (dd, 1H), 4.44 (dd, 1H), 4.47-4.56 (m, 1H), 6.96 (d, 1H), 7.87 (d, 1H), 7.92 (dd, 1H), 7.97 (d, 1H), 7.04 (d, 1H), 8.49 (d, 1H), 8.61 (s, 1H).

reactant | 2-acetylthiazole-4-carboxylic acid | 3.07 mmol, 0.597 g | C(C)(=O)C=1SC=C(N1)C(=O)O | C6H5NO3S
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 3.07 mmol, 0.8 g | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | (R)-2-acetyl-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)thiazole-4-carboxamide | Yield 24.22% | C(C)(=O)C=1SC=C(N1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C19H16ClN5O2S
